US07214673B2
(S)-10-{3-[2-(3-Methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Add sodium triacetoxyborohydride (0.23 g, 1.1 mmol) and aqueous formaldehyde (37% w/w, 0.083 mL, 1.1 mmol) to a solution of (S)-10-{3-[2-(3-methoxy-phenyl)-ethyl]-piperazin-1 yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.36 g, 0.74 mmol) in methanol: dichloroethane (1:1) and stir. After 1.5 hours, concentrate the reaction under reduced pressure to remove methanol, and then dilute with a saturated aqueous solution of sodium bicarbonate and dichloromethane, and separate the layers. Extract the aqueous layer with dichloromethane (2×), combine organics, and dry (sodium sulfate), filter, and concentrate under reduced pressure to a residue. Purify the residue by flash chromatography, eluting with a gradient of a solution of ethyl acetate: hexane (1:1) with 1% 2M ammonia in methanol added (40–100% in hexane over 30 minutes, then 100% for 10 minutes) to give the title compound (0.223 g, 60%): mass spectrum (APCI+, m/e): 502 (M+1); 1H NMR (300 MHz, DMSO-d6), δ (ppm): 8.48 (s, 1H), 7.19–7.10 (m, 1H), 6.97–6.81 (m, 3H), 6.76–6.67 (m, 4H), 3.96–3.76 (br. m, 2H), 3.68 (s, 3H), 3.15–3.02 (m, 1H), 2.93–2.81 (m, 1H), 2.80–2.69 (m, 1H), 2.65–2.34 (m, 2H), 2.27–2.04 (m, 5H), 1.91–1.75 (m, 1H), 1.66–1.48 (m, 1H).

reactant | sodium triacetoxyborohydride | 1.1 mmol, 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 1.1 mmol, 0.083 mL | C=O | CH2O
reactant | (S)-10-{3-[2-(3-methoxy-phenyl)-ethyl]-piperazin-1 yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.74 mmol, 0.36 g | COC=1C=C(C=CC1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C24H24F3N5OS
solvent | methanol dichloroethane | CO.ClC(C)Cl
product | (S)-10-{3-[2-(3-Methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.223 g, 60% | COC=1C=C(C=CC1)CC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C25H26F3N5OS
